US07691882B2
5-(2-Nitroethyl)-2-(pyridin-3-yloxy)pyridine
A mixture of 6-(pyridin-3-yloxy)-pyridine-3-carbaldehyde (505.1 mg, 2.52 mmol) described in Manufacturing Example 100-1-1, nitromethane (680 μL, 12.6 mmol), ammonium acetate (388 mg, 5.04 mmol), and acetic acid (20 mL) was stirred for 2.5 hours at 140° C. This reaction mixture was cooled to room temperature and partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. To a mixture of this residue in dimethyl sulfoxide (20 mL) and acetic acid (2 mL) was added sodium borohydride (114.0 mg, 3.02 mmol) at room temperature, which was stirred for 15 minutes. Water was added to this reaction mixture, which was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (157.3 mg, 26%).

reactant | 6-(pyridin-3-yloxy)-pyridine-3-carbaldehyde | 2.52 mmol, 505.1 mg | N1=CC(=CC=C1)OC1=CC=C(C=N1)C=O | C11H8N2O2
reactant | nitromethane | 12.6 mmol, 680 μL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 5.04 mmol, 388 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 3.02 mmol, 114.0 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 5-(2-Nitroethyl)-2-(pyridin-3-yloxy)pyridine | 157.3 mg, 26% | [N+](=O)([O-])CCC=1C=CC(=NC1)OC=1C=NC=CC1 | C12H11N3O3
